US05814631
Synthesis of 7-chloro-3-(3,4-dimethylbenzenesulfonyl)-2,4(1H,3H)-quinazolinedione (Compound 9)
582 mg (2.76 mmol) of 3,4-dimethylbenzenesulfonylisocyanate and 473 mg (2.76 mmol) of 2-amino-4-chlorobenzoic acid were treated in the same way as in Example 1 to obtain 190 mg of the above-identified compound (yield 18.9%). Properties: colorless crystal, Melting point: >250° C., PMR (δppm, DMSO-d6): 2.33 (6H,s), 7.12 (1H,s), 7.23 (1H,d), 7.43 (1H,d), 7.84-7.91 (3H,m), 11.64 (1H,br).

reactant | 3,4-dimethylbenzenesulfonylisocyanate | 2.76 mmol, 582 mg | CC=1C=C(C=CC1C)S(=O)(=O)N=C=O | C9H9NO3S
reactant | 2-amino-4-chlorobenzoic acid | 2.76 mmol, 473 mg | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
product | 7-chloro-3-(3,4-dimethylbenzenesulfonyl)-2,4(1H,3H)-quinazolinedione | 190 mg, yield 18.9% | ClC1=CC=C2C(N(C(NC2=C1)=O)S(=O)(=O)C1=CC(=C(C=C1)C)C)=O | C16H13ClN2O4S
